US07446229B2
N-(3,5-Dimethoxy-phenyl)-N-heptyl-4-methyl-benzenesulfonamide.
A mixture of N-(3,5-Dimethoxy-phenyl)-4-methyl-benzenesulfonamide (15.0 g, 48.9 mmol), 1-bromoheptane (9.63 g, 53.8 mmol) and potassium carbonate (17.1 g, 124.2 mmol) in anhydrous DMF (100 mL) was stirred and heated at 120 ° C. for 4 h, and then cooled to room temperature and poured into ice-cold water (400 mL). Diethyl ether (400 mL) was added to extract the product. The ethereal solution was separated and washed with water, brine and dried with Na2SO4. Removal of solvent and drying reagent provided 19.50 g of light yellow liquid, which was treated with small amount of diethyl ether to give 19.10 g (96.4%) of the title compound as a white solid upon cooling.

reactant | N-(3,5-Dimethoxy-phenyl)-4-methyl-benzenesulfonamide | 48.9 mmol, 15.0 g | COC=1C=C(C=C(C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C | C15H17NO4S
reactant | 1-bromoheptane | 53.8 mmol, 9.63 g | BrCCCCCCC | C7H15Br
reactant | potassium carbonate | 124.2 mmol, 17.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-(3,5-Dimethoxy-phenyl)-N-heptyl-4-methyl-benzenesulfonamide | 19.10 g, 96.4% | COC=1C=C(C=C(C1)OC)N(S(=O)(=O)C1=CC=C(C=C1)C)CCCCCCC | C22H31NO4S
